US06593355B2
g. 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-ethoxycarbonylmethyloxy-1-pyrrolidino-propan-1-one
A solution of 8.0 g (20 mmol) of 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-hydroxy-1-pyrrolidino-propan-1-one and 5 ml (48 mmol) of ethyl diazoacetate in 50 ml of methylene chloride is mixed with 2.0 ml of boron trifluoride-diethylether complex (16 mmol) at room temperature and refluxed for 14 hours. After cooling, the reaction solution is stirred into ice water and the organic phase is separated off. The aqueous phase is extracted three times with methylene chloride, the combined organic phases are washed with saline solution, dried over sodium sulphate and concentrated by evaporation. The residue is dissolved in ethyl acetate and purified on silica gel, extracting initially with petroleum ether, then with petroleum ether/ethyl acetate (1:1). The uniform fractions are combined and concentrated by evaporation.

reactant | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-hydroxy-1-pyrrolidino-propan-1-one | 20 mmol, 8.0 g | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CO)C)[N+](=O)[O-])C | C22H27N3O4
reactant | ethyl diazoacetate | 48 mmol, 5 ml | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-ethoxycarbonylmethyloxy-1-pyrrolidino-propan-1-one | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(COCC(=O)OCC)C)[N+](=O)[O-])C | C26H33N3O6
